US04261924
As in Example 4, 61.4 g of 4-nitro-2-trichloromethylbenzenesulfenyl chloride is reacted with 23 g of allylamine. The hydrochloride is filtered off and the ether phase is concentrated. There is obtained 62 g (95% of theory) of N-allyl-4-nitro-2-trichloromethylphenylsulfenamide as a pale oil.

reactant | 4-nitro-2-trichloromethylbenzenesulfenyl chloride | 61.4 g | [N+](=O)([O-])C1=CC(=C(C=C1)SCl)C(Cl)(Cl)Cl | C7H3Cl4NO2S
reactant | allylamine | 23 g | C(C=C)N | C3H7N
product | N-allyl-4-nitro-2-trichloromethylphenylsulfenamide | 62 g, 95% | C(C=C)NSC1=C(C=C(C=C1)[N+](=O)[O-])C(Cl)(Cl)Cl | C10H9Cl3N2O2S
